US06054470
To a stirred solution of 2-(R,S)-(2-naphthylacetyl)amino-3-[4'-(1"-t butoxycarbonyl-1"-methyl)ethyl]benzenepropanoic acid (0.31 g, 0.66 mmol) in methylene chloride (5 mL) at rt was added dimethylformamide (3drops) followed by oxalyl chloride (2 M in methylene chloride, 0.30 mL, 0.66 mmol). The mixture was stirred at rt for 1 hour. Triethylamine (0. 13 mL), 4-amino-2-(4-methoxybenzyl)-5-methyl-3-pyridazinone (0.12 g, 0.47 mmol) and DMAP (0.005 g)were added. The mixture was stirred overnight at rt, and heated at reflux for 6 hours. The solvents were evaporated, and the residue was fractionated over silica gel (ethyl acetate/hexane 1/1) to give 4-[2'-(R,S)-2""-naphthylacetyl)amino-3'-[4"-(1'"-t butoxycarbonyl-1'"-methyl)ethyl]benzene]propanoylamino-2-(4-methoxybenzyl)-5-methyl-3-pyridazinone (0.08 g, 0.11 mmol, 17%).

reactant | oxalyl chloride | 0.66 mmol, 2 M, 0.30 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Triethylamine | 13 mL | C(C)N(CC)CC | C6H15N
reactant | 4-amino-2-(4-methoxybenzyl)-5-methyl-3-pyridazinone | 0.47 mmol, 0.12 g | NC=1C(N(N=CC1C)CC1=CC=C(C=C1)OC)=O | C13H15N3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | 3drops | CN(C=O)C | C3H7NO
catalyst | DMAP | 0.005 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | propanoylamino-2-(4-methoxybenzyl)-5-methyl-3-pyridazinone | 0.11 mmol, 0.08 g, 17% | C(CC)(=O)NC=1C(N(N=CC1C)CC1=CC=C(C=C1)OC)=O | C16H19N3O3
